US08084623B2
To a stirred solution of 5-bromo-1-triisopropylsilanyl-1H-indole (0.55 g, 1.57 mmol) in THF (10 mL) at −78° C. under nitrogen atmosphere was added tert-butyllithium (2.02 mL of 1.55 M solution in pentanes, 3.13 mmol) dropwise. After one hour, the reaction mixture was added rapidly to a cold (−78° C.) solution of (R)-2-benzyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (0.50 g, 3.13 mmol) in THF (10 mL). The reaction mixture was stirred at −78° C. for one hour, then warmed to room temperature and stirred for two hours. The reaction mixture was quenched by the addition of saturated aqueous NH4Cl (20 mL) then extracted with EtOAc. The combined extracts were washed with brine then dried (MgSO4), filtered and concentrated in vacuo. Purification by chromatography (silica, 0-20% EtOAc in hexanes) gave 2-benzyl-2-(1-triisopropylsilanyl-1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.145 g, 0.259 mmol, 16%) as a colourless gum.

reactant | 5-bromo-1-triisopropylsilanyl-1H-indole | 1.57 mmol, 0.55 g | BrC=1C=C2C=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C | C17H26BrNSi
reactant | tert-butyllithium | 3.13 mmol, 1.55 M, 2.02 mL | C(C)(C)(C)[Li]
reactant | (R)-2-benzyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 3.13 mmol, 0.50 g | COC(=O)[C@]1(N(CCC1)C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C18H25NO4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-benzyl-2-(1-triisopropylsilanyl-1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.259 mmol, 0.145 g, 16% | C(C)(C)(C)OC(=O)N1C(CCC1)(C(=O)C=1C=C2C=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)CC1=CC=CC=C1 | C34H48N2O3Si
